US06323235B1
3-(2-(4-phenylbenzyloxy)ethyl)-7-methoxybenzofuran
3-(2-hydroxyethyl)-7-methoxybenzofuran (373 mg) was dissolved in DMF (7 ml) and potassium t-butoxide (261 mg) was added to the obtained solution, followed by stirring the resulting solution at room temperature for 20 minutes. To this reaction solution, 4-phenylbenzyl chloride (511 mg) was added and the solution was stirred at room temperature for 1 hour. Acetic acid was added to the reaction solution and the resultant was poured into water layer (50 ml), followed by extraction twice with ethyl acetate (20 ml). The organic layers were combined and washed with saturated brine, followed by drying over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the residue was purified by column chromatography (solvent: hexane/ethyl acetate=5/1) using silica gel to obtain the desired compound (613 mg, yield: 88%).

reactant | 3-(2-hydroxyethyl)-7-methoxybenzofuran | 373 mg | OCCC1=COC2=C1C=CC=C2OC | C11H12O3
reactant | potassium t-butoxide | 261 mg | CC(C)([O-])C.[K+]
reactant | 4-phenylbenzyl chloride | 511 mg | C1(=CC=CC=C1)C1=CC=C(CCl)C=C1 | C13H11Cl
reactant | Acetic acid | C(C)(=O)O | C2H4O2
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | 3-(2-(4-phenylbenzyloxy)ethyl)-7-methoxybenzofuran | 613 mg, yield: 88% | C1(=CC=CC=C1)C1=CC=C(COCCC2=COC3=C2C=CC=C3OC)C=C1 | C24H22O3
